US09084794B2
i) (+)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)-2-(4-(1-(hydroxymethyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide
A solution of crude (85% purity) 2-(4-bromo-2-fluorophenyl)-2-(4-(1-(hydroxymethyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.488 mmol) in 1,4-dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.537 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.024 mmol), and 2M aq potassium carbonate (1.464 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. Additional portions of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.117 mmol) and PdCl2(dppf)-CH2Cl2 adduct (0.012 mmol) were added. The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 5 min. The resulting black mixture was diluted with water (50 mL) and brine (20 mL) and was extracted with ethyl acetate three times. The combined organic layers were treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting solid was purified by reverse phase HPLC (20-60% acetonitrile/water with 0.1% NH4OH). Fractions containing the desired product were selected, combined and concentrated to dryness in vacuo. Further purification by chiral HPLC (Chromegachiral CC4, methanol) followed by lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid in >98% ee (43 mg, 16% yield). MS(ES)+ m/e 519.3 [M+H]+. αD=+47 deg (c=0.05, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-(1-(hydroxymethyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.488 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2(CC2)CO)CC1)F | C20H25BrFN3O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.537 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 1.464 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.117 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.024 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.012 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)-2-(4-(1-(hydroxymethyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 16% yield | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2(CC2)CO)CC1 | C29H31FN4O4
